US08067447B2
To 1-(4-fluorophenyl)-1H-indazole-5-carbaldehyde (240 mg, 1.0 mmol) in anhydrous THF (5 mL) was added benzylmagnesium bromide (19% solution in THF, 3 mL, 3 mmol) dropwise at rt under argon. The reaction mixture was stirred at rt for 30 min and quenched by the slow addition of saturated aqueous ammonium chloride solution (5 mL). The mixture was extracted with ethyl acetate (2×4 mL). The combined ethyl acetate extracts were dried (Na2SO4), concentrated and purified by silica gel flash chromatography to give 1-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-phenylethanol (330 mg, 1.0 mmol, 100% yield) as a yellow oil.

reactant | 1-(4-fluorophenyl)-1H-indazole-5-carbaldehyde | 1.0 mmol, 240 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C=O | C14H9FN2O
reactant | benzylmagnesium bromide | 3 mmol, 3 mL | C(C1=CC=CC=C1)[Mg]Br
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-phenylethanol | 1.0 mmol, 330 mg, 100% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(CC1=CC=CC=C1)O | C21H17FN2O
